US07598423B2
Synthesis of 3-[4-(4-acetyl-3-hydroxy-2-iodo-phenoxymethyl)-benzyl]-benzoic acid methyl ester
Potassium carbonate (675 mg, 4.88 mmol) is added to a solution of 4-acetyl-3-hydroxy-2-iodo-phenol (925 mg, 3.33 mmol) and 3-(4-iodomethyl-benzyl)-benzoic acid methyl ester (1.21 g, 3.30 mmol) in acetone (65 mL). The resulting suspension is heated at 50° C. for 16 hours. The reaction mixture is cooled to room temperature and concentrated in vacuo. The residue is taken up in dichloromethane, washed with 1N hydrochloric acid, brine, dried over magnesium sulfate, filtered and concentrated to give a yellow solid. This solid is dissolved in dichloromethane and a white precipitate forms upon addition of ethyl acetate. The white solid is filtered off and the mother liquor is purified by flash chromatography, eluting with 20% ethyl acetate in hexanes. The precipitate and chromatographed materials are combined to give 1.04 g of the title compound as a pale yellow solid: MS (m/z) 517 (M+1), 515 (M−1); 1H NMR δ (CDCl3); 13.58 (s, 1H), 7.93 (m, 2H), 7.74 (d, J=9.0 Hz, 1H), 7.45-7.38 (m, 4H), 7.25 (d, J=8.0 Hz, 2H), 6.50 (d, J=9.0 Hz, 1H), 5.27 (s, 2H), 4.07 (s, 2H), 3.94 (s, 3H), 2.63 (s, 3H).

reactant | Potassium carbonate | 4.88 mmol, 675 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-acetyl-3-hydroxy-2-iodo-phenol | 3.33 mmol, 925 mg | C(C)(=O)C1=C(C(=C(C=C1)O)I)O | C8H7IO3
reactant | 3-(4-iodomethyl-benzyl)-benzoic acid methyl ester | 3.30 mmol, 1.21 g | COC(C1=CC(=CC=C1)CC1=CC=C(C=C1)CI)=O | C16H15IO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetone | 65 mL | CC(=O)C | C3H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-[4-(4-acetyl-3-hydroxy-2-iodo-phenoxymethyl)-benzyl]-benzoic acid methyl ester | 1.04 g | COC(C1=CC(=CC=C1)CC1=CC=C(C=C1)COC1=C(C(=C(C=C1)C(C)=O)O)I)=O | C24H21IO5
